US08686005B2
(R)-1-Amino-3-(4-fluoro-phenoxy)-propan-2-ol.
A mixture of (R)-1-azido-3-(4-fluoro-phenoxy)-propan-2-ol (4.83 g, 22.9 mmol) NaBH4 (1.73 g, 45.8 mmol) in iPrOH (100 mL) was stirred at 80° C. for 24 h. After cooling to RT, aq. HCl (200 mL, 0.25 M) was added, washed with CH2Cl2 (100 mL). Saturated aq. K2CO3 (150 mL) was added to the aqueous phase. The product was extracted with CH2Cl2 (2×100 mL), extracts were dried over Na2SO4 and evaporated. The residue was dried under vacuum. White solid, 2.20 g (11.9 mmol, 52%). LCMS [M+H]+ 186.1

reactant | (R)-1-azido-3-(4-fluoro-phenoxy)-propan-2-ol | 22.9 mmol, 4.83 g | N(=[N+]=[N-])C[C@H](COC1=CC=C(C=C1)F)O | C9H10FN3O2
reactant | HCl | 0.25 M, 200 mL | Cl | ClH
solvent | iPrOH | 100 mL | CC(C)O | C3H8O
product | (R)-1-Amino-3-(4-fluoro-phenoxy)-propan-2-ol | NC[C@H](COC1=CC=C(C=C1)F)O | C9H12FNO2
